data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2796,3106,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]#[C:8][C:9]([c:10]2[cH:11][cH:12][cH:13][cH:14][cH:15]2)([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[CH2:22][CH2:23][CH2:24][CH2:25]1.[CH3:26][NH:27][C:28](=[O:29])[c-:30]1[c:31](=[O:32])[o:33][c:34]([C:35](=[O:36])[O:37][CH3:38])[n+:39]1[CH3:40]>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([CH3:6])[C:7]2=[C:8]([C:9]([c:10]3[cH:11][cH:12][cH:13][cH:14][cH:15]3)([c:16]3[cH:17][cH:18][cH:19][cH:20][cH:21]3)[CH2:22][CH2:23][CH2:24][CH2:25]1)[C:34]1([C:35](=[O:36])[O:37][CH3:38])[O:33][C:31](=[O:32])[C:30]2([C:28]([NH:27][CH3:26])=[O:29])[N:39]1[CH3:40],water,298.15,21.92068704776618,-9.331457687194035
4924,5609,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16]#[N+:17][C-:18]([C:19](=[O:20])[NH:21][CH3:22])[C:23](=[O:24])[NH:25][CH3:26]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:18]([C:19](=[O:20])[NH:21][CH3:22])([C:23](=[O:24])[NH:25][CH3:26])[N:17]=[C:16]2[CH3:15],water,298.15,15.547876449757776,-16.407400485302734
4219,4825,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([CH3:20])[n+:21]1[CH3:22]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:19]1([CH3:20])[O:18][C:16](=[O:17])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[N:21]1[CH3:22],water,298.15,33.19194914038006,19.80866511827066
1236,1349,[CH3:13][NH:14][C:15](=[O:16])[C:17]#[N+:18][C-:19]([C:20]#[N:21])[C:22](=[O:23])[O:24][CH3:25].[F:1][C:2]1([F:3])[C:4]#[C:5][C:6]([F:7])([F:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[F:1][C:2]1([F:3])[C:4]2=[C:5]([C:6]([F:7])([F:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:19]([C:20]#[N:21])([C:22](=[O:23])[O:24][CH3:25])[N:18]=[C:17]2[C:15]([NH:14][CH3:13])=[O:16],water,298.15,6.009262919035275,-66.77624491084245
2659,2952,[CH3:15][C:16](=[O:17])[C-:18]([NH+:19]=[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH2:11][CH2:12][CH:13]1[CH2:14]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7]([CH3:8])=[O:9])([CH:10]3[CH2:11][CH2:12][CH:13]1[CH2:14]3)[C:18]([C:16]([CH3:15])=[O:17])([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[NH:19][C:20]2([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,40.10988661632573,16.006262712675134
1323,1452,[CH3:13][NH:14][C:15](=[O:16])[C:17]([CH3:18])=[N+:19]([CH3:20])[C-:21]([C:22]#[N:23])[C:24]#[N:25].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([Cl:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([CH3:18])[N:19]([CH3:20])[C:21]2([C:22]#[N:23])[C:24]#[N:25],water,298.15,26.18504423160604,-16.365863656191046
2584,2865,[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[CH3:22][NH:23][C:24](=[O:25])[C-:26]([CH3:27])[O+:28]=[CH:29][C:30](=[O:31])[O:32][CH3:33]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([C:10]([F:11])([F:12])[F:13])([C:14]([F:15])([F:16])[F:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[CH:29]([C:30](=[O:31])[O:32][CH3:33])[O:28][C:26]2([C:24]([NH:23][CH3:22])=[O:25])[CH3:27],water,298.15,12.557547864315346,-63.39210858905995
240,263,[CH3:1][O:2][C:3](=[O:4])[C:5]#[C:6][Br:7].[CH3:8][C:9](=[O:10])[C:11]#[N+:12][C-:13]([CH3:14])[CH3:15]>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Br:7])[C:13]([CH3:14])([CH3:15])[N:12]=[C:11]1[C:9]([CH3:8])=[O:10],water,298.15,12.947646256598668,-71.76723950496691
2581,2862,[CH3:29][C-:30]([N+:31]#[N:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]#[C:11][C:12]([c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[CH2:25][CH2:26][CH2:27][CH2:28]1>>[N:1]#[C:2][C:3]1([c:4]2[cH:5][cH:6][cH:7][cH:8][cH:9]2)[C:10]2=[C:11]([C:12]([c:13]3[cH:14][cH:15][cH:16][cH:17][cH:18]3)([c:19]3[cH:20][cH:21][cH:22][cH:23][cH:24]3)[CH2:25][CH2:26][CH2:27][CH2:28]1)[N:32]=[N:31][C:30]2([CH3:29])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,17.874383358621248,-30.900642223362446
4949,5635,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([C:15]#[N:16])[O+:17]=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]#[N:16])[O:17][C:18]1([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,9.880319418648014,-35.452855300710915
